*** SPICE deck for cell HW3{lay} from library project_1_delmaybe
*** Created on Wed Mar 04, 2020 00:07:52
*** Last revised on Wed Mar 04, 2020 20:05:50
*** Written on Wed Mar 04, 2020 23:04:07 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF
***    P-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    N-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=3.0ohms/sq
***    Polysilicon-1:	areacap=0.1467FF/um^2,	edgecap=0.0608FF/um,	res=6.2ohms/sq
***    Polysilicon-2:	areacap=1.0FF/um^2,	edgecap=0.0FF/um,	res=50.0ohms/sq
***    Transistor-Poly:	areacap=0.09FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Poly-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.2ohms/sq
***    Active-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Metal-1:	areacap=0.1209FF/um^2,	edgecap=0.1104FF/um,	res=0.078ohms/sq
***    Via1:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq
***    Metal-2:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via2:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.9ohms/sq
***    Metal-3:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via3:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-4:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via4:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-5:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via5:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-6:	areacap=0.0423FF/um^2,	edgecap=0.1273FF/um,	res=0.036ohms/sq
***    Hi-Res:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq

*** TOP LEVEL CELL: HW3{lay}
Mnmos@0 net@3 A#2nmos@0_poly-right gnd gnd NMOS L=0.35U W=1.75U AS=4.196P AD=2.756P PS=12.145U PD=7.35U
Mnmos@3 gnd net@3#8nmos@3_poly-left net@76 gnd NMOS L=0.35U W=1.75U AS=1.225P AD=4.196P PS=3.733U PD=12.145U
Mnmos@4 net@76 B#0nmos@4_poly-left gnd gnd NMOS L=0.35U W=1.75U AS=4.196P AD=1.225P PS=12.145U PD=3.733U
Mnmos@5 net@86 net@76#10nmos@5_poly-right gnd gnd NMOS L=0.35U W=1.75U AS=4.196P AD=2.527P PS=12.145U PD=7.175U
Mnmos@6 net@281#3pmos@6_diff-top D#3nmos@6_poly-right gnd gnd NMOS L=0.35U W=1.75U AS=4.196P AD=2.756P PS=12.145U PD=7.35U
Mnmos@7 gnd net@281#2nmos@7_poly-left net@285 gnd NMOS L=0.35U W=1.75U AS=1.225P AD=4.196P PS=3.733U PD=12.145U
Mnmos@8 net@285 C#3nmos@8_poly-left gnd gnd NMOS L=0.35U W=1.75U AS=4.196P AD=1.225P PS=12.145U PD=3.733U
Mnmos@9 net@331 net@285#5nmos@9_poly-right gnd gnd NMOS L=0.35U W=1.75U AS=4.196P AD=2.527P PS=12.145U PD=7.175U
Mnmos@10 net@352 net@86#8nmos@10_poly-right gnd gnd NMOS L=0.35U W=1.75U AS=4.196P AD=0.689P PS=12.145U PD=2.537U
Mnmos@11 net@342 net@331#4nmos@11_poly-left net@352 gnd NMOS L=0.35U W=1.75U AS=0.689P AD=1.276P PS=2.537U PD=3.792U
Mnmos@12 out net@342#10nmos@12_poly-right gnd gnd NMOS L=0.35U W=1.75U AS=4.196P AD=2.756P PS=12.145U PD=7.35U
Mpmos@0 vdd A#0pmos@0_poly-right net@3 vdd PMOS L=0.35U W=3.5U AS=2.756P AD=5.444P PS=7.35U PD=14.817U
Mpmos@3 net@76 B#2pmos@3_poly-left net@78 vdd PMOS L=0.35U W=1.75U AS=0.574P AD=1.225P PS=2.713U PD=3.733U
Mpmos@4 net@78 net@3#6pmos@4_poly-left vdd vdd PMOS L=0.35U W=1.75U AS=5.444P AD=0.574P PS=14.817U PD=2.713U
Mpmos@5 vdd net@76#9pmos@5_poly-right net@86 vdd PMOS L=0.35U W=3.5U AS=2.527P AD=5.444P PS=7.175U PD=14.817U
Mpmos@6 vdd D#0pmos@6_poly-right net@281#3pmos@6_diff-top vdd PMOS L=0.35U W=3.5U AS=2.756P AD=5.444P PS=7.35U PD=14.817U
Mpmos@7 net@285 C#5pmos@7_poly-left net@323 vdd PMOS L=0.35U W=1.75U AS=0.574P AD=1.225P PS=2.713U PD=3.733U
Mpmos@8 net@323 net@281#13pmos@8_poly-left vdd vdd PMOS L=0.35U W=1.75U AS=5.444P AD=0.574P PS=14.817U PD=2.713U
Mpmos@9 vdd net@285#4pmos@9_poly-right net@331 vdd PMOS L=0.35U W=3.5U AS=2.527P AD=5.444P PS=7.175U PD=14.817U
Mpmos@10 vdd net@86#4pmos@10_poly-right net@342 vdd PMOS L=0.35U W=1.75U AS=1.276P AD=5.444P PS=3.792U PD=14.817U
Mpmos@11 net@342 net@331#7pmos@11_poly-right vdd vdd PMOS L=0.35U W=1.75U AS=5.444P AD=1.276P PS=14.817U PD=3.792U
Mpmos@12 vdd net@342#8pmos@12_poly-right out vdd PMOS L=0.35U W=3.5U AS=2.756P AD=5.444P PS=7.35U PD=14.817U
** Extracted Parasitic Capacitors ***
C0 net@3 0 2.431fF
C1 net@76 0 2.897fF
C2 net@86 0 3.978fF
C3 net@281#3pmos@6_diff-top 0 2.431fF
C4 net@285 0 2.897fF
C5 net@331 0 3.632fF
C6 net@342 0 3.745fF
C7 out 0 1.39fF
C8 B#0nmos@4_poly-left 0 0.111fF
C9 C#3nmos@8_poly-left 0 0.111fF
C10 net@331#4nmos@11_poly-left 0 0.106fF
C11 A#1pin@2_polysilicon-1 0 0.154fF
C12 net@3#5pin@17_polysilicon-1 0 0.188fF
C13 B#1pin@18_polysilicon-1 0 0.116fF
C14 net@3#12pin@42_polysilicon-1 0 0.111fF
C15 B#4pin@50_polysilicon-1 0 0.135fF
C16 B#5pin@86_polysilicon-1 0 0.132fF
C17 D#1pin@87_polysilicon-1 0 0.154fF
C18 net@281 0 0.188fF
C19 C#4pin@92_polysilicon-1 0 0.116fF
C20 net@281#8pin@103_polysilicon-1 0 0.111fF
C21 C#1pin@105_polysilicon-1 0 0.135fF
C22 C#2pin@108_polysilicon-1 0 0.132fF
C23 net@86#5pin@111_polysilicon-1 0 0.161fF
C24 net@331#5pin@113_polysilicon-1 0 0.118fF
C25 net@342#9pin@118_polysilicon-1 0 0.15fF
C26 net@76#9pmos@5_poly-right 0 0.133fF
C27 net@285#4pmos@9_poly-right 0 0.133fF
** Extracted Parasitic Resistors ***
R0 A#0pmos@0_poly-right A#0pmos@0_poly-right##0 8.525
R1 A#0pmos@0_poly-right##0 A#1pin@2_polysilicon-1 8.525
R2 A#1pin@2_polysilicon-1 A#2nmos@0_poly-right 7.75
R3 A A##0 7.75
R4 A##0 A##1 7.75
R5 A##1 A##2 7.75
R6 A##2 A#1pin@2_polysilicon-1 7.75
R7 B#0nmos@4_poly-left B#0nmos@4_poly-left##0 8.68
R8 B#0nmos@4_poly-left##0 B#0nmos@4_poly-left##1 8.68
R9 B#0nmos@4_poly-left##1 B#0nmos@4_poly-left##2 8.68
R10 B#0nmos@4_poly-left##2 B#0nmos@4_poly-left##3 8.68
R11 B#0nmos@4_poly-left##3 B#1pin@18_polysilicon-1 8.68
R12 B#2pmos@3_poly-left B#1pin@18_polysilicon-1 9.3
R13 net@3#5pin@17_polysilicon-1 net@3#5pin@17_polysilicon-1##0 9.817
R14 net@3#5pin@17_polysilicon-1##0 net@3#5pin@17_polysilicon-1##1 9.817
R15 net@3#5pin@17_polysilicon-1##1 net@3#6pmos@4_poly-left 9.817
R16 net@3#8nmos@3_poly-left net@3#8nmos@3_poly-left##0 6.975
R17 net@3#8nmos@3_poly-left##0 net@3#5pin@17_polysilicon-1 6.975
R18 net@76#9pmos@5_poly-right net@76#9pmos@5_poly-right##0 8.267
R19 net@76#9pmos@5_poly-right##0 net@76#9pmos@5_poly-right##1 8.267
R20 net@76#9pmos@5_poly-right##1 net@76#10nmos@5_poly-right 8.267
R21 net@76#9pmos@5_poly-right net@76#9pmos@5_poly-right##0 9.3
R22 net@76#9pmos@5_poly-right##0 net@76#9pmos@5_poly-right##1 9.3
R23 net@76#9pmos@5_poly-right##1 net@76#9pmos@5_poly-right##2 9.3
R24 net@76#9pmos@5_poly-right##2 net@76 9.3
R25 net@3#5pin@17_polysilicon-1 net@3#5pin@17_polysilicon-1##0 5.425
R26 net@3#5pin@17_polysilicon-1##0 net@3#11pin@41_polysilicon-1 5.425
R27 net@3#5pin@17_polysilicon-1 net@3#5pin@17_polysilicon-1##0 5.425
R28 net@3#5pin@17_polysilicon-1##0 net@3#12pin@42_polysilicon-1 5.425
R29 net@3 net@3##0 6.717
R30 net@3##0 net@3#12pin@42_polysilicon-1 6.717
R31 B B#4pin@50_polysilicon-1 5.167
R32 B#4pin@50_polysilicon-1 B#4pin@50_polysilicon-1##0 9.978
R33 B#4pin@50_polysilicon-1##0 B#4pin@50_polysilicon-1##1 9.978
R34 B#4pin@50_polysilicon-1##1 B#4pin@50_polysilicon-1##2 9.978
R35 B#4pin@50_polysilicon-1##2 B#4pin@50_polysilicon-1##3 9.978
R36 B#4pin@50_polysilicon-1##3 B#4pin@50_polysilicon-1##4 9.978
R37 B#4pin@50_polysilicon-1##4 B#4pin@50_polysilicon-1##5 9.978
R38 B#4pin@50_polysilicon-1##5 B#4pin@50_polysilicon-1##6 9.978
R39 B#4pin@50_polysilicon-1##6 B#4pin@50_polysilicon-1##7 9.978
R40 B#4pin@50_polysilicon-1##7 B#4pin@50_polysilicon-1##8 9.978
R41 B#4pin@50_polysilicon-1##8 B#4pin@50_polysilicon-1##9 9.978
R42 B#4pin@50_polysilicon-1##9 B#4pin@50_polysilicon-1##10 9.978
R43 B#4pin@50_polysilicon-1##10 B#4pin@50_polysilicon-1##11 9.978
R44 B#4pin@50_polysilicon-1##11 B#4pin@50_polysilicon-1##12 9.978
R45 B#4pin@50_polysilicon-1##12 B#4pin@50_polysilicon-1##13 9.978
R46 B#4pin@50_polysilicon-1##13 B#4pin@50_polysilicon-1##14 9.978
R47 B#4pin@50_polysilicon-1##14 B#5pin@86_polysilicon-1 9.978
R48 D#0pmos@6_poly-right D#0pmos@6_poly-right##0 8.525
R49 D#0pmos@6_poly-right##0 D#1pin@87_polysilicon-1 8.525
R50 net@281#2nmos@7_poly-left net@281#2nmos@7_poly-left##0 6.975
R51 net@281#2nmos@7_poly-left##0 net@281 6.975
R52 net@285#4pmos@9_poly-right net@285#4pmos@9_poly-right##0 8.267
R53 net@285#4pmos@9_poly-right##0 net@285#4pmos@9_poly-right##1 8.267
R54 net@285#4pmos@9_poly-right##1 net@285#5nmos@9_poly-right 8.267
R55 net@285#4pmos@9_poly-right net@285#4pmos@9_poly-right##0 9.3
R56 net@285#4pmos@9_poly-right##0 net@285#4pmos@9_poly-right##1 9.3
R57 net@285#4pmos@9_poly-right##1 net@285#4pmos@9_poly-right##2 9.3
R58 net@285#4pmos@9_poly-right##2 net@285 9.3
R59 net@281 net@281##0 5.425
R60 net@281##0 net@281#7pin@102_polysilicon-1 5.425
R61 net@281 net@281##0 5.425
R62 net@281##0 net@281#8pin@103_polysilicon-1 5.425
R63 net@281#3pmos@6_diff-top net@281#3pmos@6_diff-top##0 6.717
R64 net@281#3pmos@6_diff-top##0 net@281#8pin@103_polysilicon-1 6.717
R65 C C#1pin@105_polysilicon-1 5.167
R66 C#1pin@105_polysilicon-1 C#1pin@105_polysilicon-1##0 9.978
R67 C#1pin@105_polysilicon-1##0 C#1pin@105_polysilicon-1##1 9.978
R68 C#1pin@105_polysilicon-1##1 C#1pin@105_polysilicon-1##2 9.978
R69 C#1pin@105_polysilicon-1##2 C#1pin@105_polysilicon-1##3 9.978
R70 C#1pin@105_polysilicon-1##3 C#1pin@105_polysilicon-1##4 9.978
R71 C#1pin@105_polysilicon-1##4 C#1pin@105_polysilicon-1##5 9.978
R72 C#1pin@105_polysilicon-1##5 C#1pin@105_polysilicon-1##6 9.978
R73 C#1pin@105_polysilicon-1##6 C#1pin@105_polysilicon-1##7 9.978
R74 C#1pin@105_polysilicon-1##7 C#1pin@105_polysilicon-1##8 9.978
R75 C#1pin@105_polysilicon-1##8 C#1pin@105_polysilicon-1##9 9.978
R76 C#1pin@105_polysilicon-1##9 C#1pin@105_polysilicon-1##10 9.978
R77 C#1pin@105_polysilicon-1##10 C#1pin@105_polysilicon-1##11 9.978
R78 C#1pin@105_polysilicon-1##11 C#1pin@105_polysilicon-1##12 9.978
R79 C#1pin@105_polysilicon-1##12 C#1pin@105_polysilicon-1##13 9.978
R80 C#1pin@105_polysilicon-1##13 C#1pin@105_polysilicon-1##14 9.978
R81 C#1pin@105_polysilicon-1##14 C#2pin@108_polysilicon-1 9.978
R82 D#1pin@87_polysilicon-1 D#3nmos@6_poly-right 7.75
R83 C#3nmos@8_poly-left C#3nmos@8_poly-left##0 8.68
R84 C#3nmos@8_poly-left##0 C#3nmos@8_poly-left##1 8.68
R85 C#3nmos@8_poly-left##1 C#3nmos@8_poly-left##2 8.68
R86 C#3nmos@8_poly-left##2 C#3nmos@8_poly-left##3 8.68
R87 C#3nmos@8_poly-left##3 C#4pin@92_polysilicon-1 8.68
R88 C#5pmos@7_poly-left C#4pin@92_polysilicon-1 9.3
R89 D D##0 7.75
R90 D##0 D##1 7.75
R91 D##1 D##2 7.75
R92 D##2 D#1pin@87_polysilicon-1 7.75
R93 net@281 net@281##0 9.817
R94 net@281##0 net@281##1 9.817
R95 net@281##1 net@281#13pmos@8_poly-left 9.817
R96 net@86#4pmos@10_poly-right net@86#4pmos@10_poly-right##0 7.75
R97 net@86#4pmos@10_poly-right##0 net@86#4pmos@10_poly-right##1 7.75
R98 net@86#4pmos@10_poly-right##1 net@86#5pin@111_polysilicon-1 7.75
R99 net@86 net@86##0 6.717
R100 net@86##0 net@86##1 6.717
R101 net@86##1 net@86#5pin@111_polysilicon-1 6.717
R102 net@331#4nmos@11_poly-left net@331#4nmos@11_poly-left##0 6.2
R103 net@331#4nmos@11_poly-left##0 net@331#5pin@113_polysilicon-1 6.2
R104 net@342#8pmos@12_poly-right net@342#8pmos@12_poly-right##0 8.525
R105 net@342#8pmos@12_poly-right##0 net@342#9pin@118_polysilicon-1 8.525
R106 net@342#9pin@118_polysilicon-1 net@342#10nmos@12_poly-right 7.75
R107 net@342 net@342##0 7.75
R108 net@342##0 net@342##1 7.75
R109 net@342##1 net@342#9pin@118_polysilicon-1 7.75
R110 net@331#4nmos@11_poly-left net@331#4nmos@11_poly-left##0 8.06
R111 net@331#4nmos@11_poly-left##0 net@331#4nmos@11_poly-left##1 8.06
R112 net@331#4nmos@11_poly-left##1 net@331#4nmos@11_poly-left##2 8.06
R113 net@331#4nmos@11_poly-left##2 net@331#4nmos@11_poly-left##3 8.06
R114 net@331#4nmos@11_poly-left##3 net@331#7pmos@11_poly-right 8.06
R115 net@331#5pin@113_polysilicon-1 net@331#5pin@113_polysilicon-1##0 9.3
R116 net@331#5pin@113_polysilicon-1##0 net@331#5pin@113_polysilicon-1##1 9.3
R117 net@331#5pin@113_polysilicon-1##1 net@331#5pin@113_polysilicon-1##2 9.3
R118 net@331#5pin@113_polysilicon-1##2 net@331#5pin@113_polysilicon-1##3 9.3
R119 net@331#5pin@113_polysilicon-1##3 net@331#5pin@113_polysilicon-1##4 9.3
R120 net@331#5pin@113_polysilicon-1##4 net@331 9.3
R121 net@86#8nmos@10_poly-right net@86#9pin@125_polysilicon-1 4.65
R122 net@86#5pin@111_polysilicon-1 net@86#5pin@111_polysilicon-1##0 8.525
R123 net@86#5pin@111_polysilicon-1##0 net@86#9pin@125_polysilicon-1 8.525
R124 B#0nmos@4_poly-left B#0nmos@4_poly-left##0 6.2
R125 B#0nmos@4_poly-left##0 B#5pin@86_polysilicon-1 6.2
R126 C#2pin@108_polysilicon-1 C#2pin@108_polysilicon-1##0 6.2
R127 C#2pin@108_polysilicon-1##0 C#3nmos@8_poly-left 6.2

* Spice Code nodes in cell cell 'HW3{lay}'
VDD VDD 0 DC 3.3
VGND GND 0 DC 0
vin A 0 PULSE(3.3 0 0 5ns 10ns 100ns 200ns)
vin2 B 0 PULSE(3.3 0 0 5ns 10ns 200ns 400ns)
vin3 C 0 PULSE(3.3 0 0 5ns 10ns 400ns 800ns)
vin4 D 0 PULSE(3.3 0 0 5ns 10ns 800ns 1600ns)
cload out 0 250fF
.tran 0 1600ns
.include C:\Electric\C5_models.txt
.END
